US04851519
A solution of 1.12 g of (2,6-dichlorophenyl)acetyl chloride in 15 ml of diethyl ether was added to a solution of 1.275 g of 5'-amino-2',5'dideoxy-5-ethyluridine in 15 ml of 0.33M sodium hydroxide solution. The mixture was shaken vigorously for 10 minutes and then filtered. The solid was washed with 150 ml of water, 20 ml of ethanol and 40 ml of diethyl ether, and then recrystallized from 2.5 l of ethanol to give 1.53 g of 5'-[2-(2,6-dichlorophenyl)acetamido]-2',5'-dideoxy-5-ethyluridine in the form of a white solid of melting point 296°-297° C.

reactant | (2,6-dichlorophenyl)acetyl chloride | 1.12 g | ClC1=C(C(=CC=C1)Cl)CC(=O)Cl | C8H5Cl3O
reactant | 5'-amino-2',5'dideoxy-5-ethyluridine | 1.275 g | NC[C@@H]1[C@H](C[C@@H](O1)N1C(=O)NC(=O)C(=C1)CC)O | C11H17N3O4
solvent | diethyl ether | 15 ml | C(C)OCC | C4H10O
solvent | sodium hydroxide | 0.33M, 15 ml | [OH-].[Na+]
product | 5'-[2-(2,6-dichlorophenyl)acetamido]-2',5'-dideoxy-5-ethyluridine | 1.53 g | ClC1=C(C(=CC=C1)Cl)CC(=O)NC[C@@H]1[C@H](C[C@@H](O1)N1C(=O)NC(=O)C(=C1)CC)O | C19H21Cl2N3O5
